US07910592B2
A solution of ethyl bromopyruvate (1.69 g, 1.09 mL, 8.68 mmol) in dry EtOH (16 mL) was added dropwise over 20 min to a stirred solution of pyridine (684 mg, 699 μL, 8.68 mmol) in dry EtOH (24 mL). The resulting solution was heated at 60-70° C. for 1 h and cooled to room temperature. 2-Aminobenzaldehyde (1.00 g, 8.26 mmol) and pyridine (1.6 mL) were added and the resulting yellow solution was heated at reflux for 4½ h. Pyrrolidine (1.40 g, 1.64 mL, 19.7 mmol) was added and the resulting mixture was heated at reflux for 3 h and concentrated in vacuo to give the crude product. This was purified by flash chromatography (Si, 65×160 mm, 0-40% EtOAc in hexanes gradient) to afford ethyl 3-aminoquinoline-2-carboxylate, as a yellow solid. Rf=0.31 (20% EtOAc/hexanes). LCMS calc.=217.1; found=217.1 (M+1). 1H NMR (500 MHz, CDCl3): δ 8.04-8.02 (m, 1H); 7.53-7.51 (m, 1H); 7.44-7.38 (m, 2H); 7.32 (s, 1H); 4.53 (q, J=7.1 Hz, 2H); 1.48 (t, J=7.1 Hz, 3H).

reactant | ethyl bromopyruvate | 8.68 mmol, 1.09 mL, 1.69 g | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | pyridine | 8.68 mmol, 699 μL, 684 mg | N1=CC=CC=C1 | C5H5N
reactant | 2-Aminobenzaldehyde | 8.26 mmol, 1.00 g | NC1=C(C=O)C=CC=C1 | C7H7NO
reactant | pyridine | 1.6 mL | N1=CC=CC=C1 | C5H5N
reactant | Pyrrolidine | 19.7 mmol, 1.64 mL, 1.40 g | N1CCCC1 | C4H9N
solvent | EtOH | 16 mL | CCO | C2H6O
solvent | EtOH | 24 mL | CCO | C2H6O
product | ethyl 3-aminoquinoline-2-carboxylate | NC=1C(=NC2=CC=CC=C2C1)C(=O)OCC | C12H12N2O2
